US08877975B2
(1-(3-chloro-4-fluorophenyl)cyclohexyl)-N,N-dimethylmethanamine (97)
The title compound was synthesized from 1-(3-chloro-4-fluorophenyl)cyclohexanecarbaldehyde and dimethyl amine using General Procedure H1 and was obtained in 88% yield as an oily solid. The title compound was also synthesized from 1-(1-(3-chloro-4-fluorophenyl)-cyclohexyl)-N-methylmethanamine according to General Procedure C.

reactant | 1-(3-chloro-4-fluorophenyl)cyclohexanecarbaldehyde | ClC=1C=C(C=CC1F)C1(CCCCC1)C=O | C13H14ClFO
reactant | dimethyl amine | CNC | C2H7N
reactant | 1-(1-(3-chloro-4-fluorophenyl)-cyclohexyl)-N-methylmethanamine | ClC=1C=C(C=CC1F)C1(CCCCC1)CNC | C14H19ClFN
product | (1-(3-chloro-4-fluorophenyl)cyclohexyl)-N,N-dimethylmethanamine | 88% yield | ClC=1C=C(C=CC1F)C1(CCCCC1)CN(C)C | C15H21ClFN
